US08049006B2
ethyl 3-(5-chloro-2-methoxyphenyl)-2-cyanoacrylate (compound S39)
A mixture of 5-chloro-2-methoxybenzaldehyde (32.2 g), cyanoethyl acetate and triethylbenzyl ammonium chloride (8.6 g) was stirred at 80° C. for 7 hours. To the reaction solution, isopropyl alcohol (97 ml) was added, then the mixture was stirred under ice cooling for 1 hour. The precipitated crystals were collected by filtration and dried in vacuo to obtain the title compound in an amount of 42.7 g as crystals.

reactant | 5-chloro-2-methoxybenzaldehyde | 32.2 g | ClC=1C=CC(=C(C=O)C1)OC | C8H7ClO2
reactant | cyanoethyl acetate | C(C)(=O)OCCC#N | C5H7NO2
reactant | isopropyl alcohol | 97 ml | C(C)(C)O | C3H8O
catalyst | triethylbenzyl ammonium chloride | 8.6 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | ethyl 3-(5-chloro-2-methoxyphenyl)-2-cyanoacrylate | ClC=1C=CC(=C(C1)C=C(C(=O)OCC)C#N)OC | C13H12ClNO3
